US04957934
A mixture of 3-(4-chlorophenyl)1-(1,2,4-triazol-1-yl)butan-2-one (0.7g), trimethylsulphoxonium iodide (0.77g), potassium hydroxide (0.38g) and 1,2,4-triazole (0.24g) in tert butyl alcohol (lOml) was heated at reflux for 4h. The reaction mixture was cooled and poured into water, and the aqueous phase was separated and extracted with ethyl acetate. The organic extract was separated, dried and concentrated to dryness under reduced pressure, and the residue was purified by column chromatography on silica using 2% by volume methanol in chloroform as eluent, to give 3 (4 chlorophenyl)-1-(1,2,4-triazol-1-yl)-2(1,2,4-triazol-1-ylmethyl)butan-2-ol mp 60-64° .

reactant | 3-(4-chlorophenyl)1-(1,2,4-triazol-1-yl)butan-2-one | 0.7g | ClC1=CC=C(C=C1)C(C(CN1N=CN=C1)=O)C | C12H12ClN3O
reactant | trimethylsulphoxonium iodide | 0.77g | [I-].C[S+](=O)(C)C
reactant | potassium hydroxide | 0.38g | [OH-].[K+]
reactant | 1,2,4-triazole | 0.24g | N1N=CN=C1 | C2H3N3
reactant | tert butyl alcohol | C(C)(C)(C)O | C4H10O
solvent | water | O | H2O
product | (4 chlorophenyl)-1-(1,2,4-triazol-1-yl)-2(1,2,4-triazol-1-ylmethyl)butan-2-ol | ClC1=CC=C(C=C1)C(C(CC)(O)CN1N=CN=C1)N1N=CN=C1 | C15H17ClN6O
